US04740602
A mixture of 3.9 g of 2-[4-(5-methoxy-3-indolyl)butyl]-1,2,3,4-tetrahydrobenzothieno[2,3-c]pyridine and 3.5 g of pyridine hydrochloride is stirred at 160° for 3 hours. After the usual working up, 2-[4-(5-hydroxy-3-indolyl)butyl]-1,2,3,4-tetrahydrobenzothieno[2,3-c]pyridine is obtained.

reactant | 2-[4-(5-methoxy-3-indolyl)butyl]-1,2,3,4-tetrahydrobenzothieno[2,3-c]pyridine | 3.9 g | COC=1C=C2C(=CNC2=CC1)CCCCN1CC2=C(CC1)C1=C(S2)C=CC=C1 | C24H26N2OS
reactant | pyridine hydrochloride | 3.5 g | Cl.N1=CC=CC=C1
product | 2-[4-(5-hydroxy-3-indolyl)butyl]-1,2,3,4-tetrahydrobenzothieno[2,3-c]pyridine | OC=1C=C2C(=CNC2=CC1)CCCCN1CC2=C(CC1)C1=C(S2)C=CC=C1 | C23H24N2OS
